US08304577B2
To a mixture of (2S)-N-((1R)-2-amino-1-(4-(2-methylpentyloxy)phenyl)ethyl)-2-phenylpropanamide (100 mg, 0.271 mmol), prepared according to the procedure described in example 5, and potassium carbonate (75 mg, 0.543 mmol) in acetonitrile (4 mL) was added 2-bromoethyl ether (0.038 mL, 0.271 mmol). The reaction mixture was then heated at reflux for 18 h. The mixture was cooled to room temperature, filtered and the filtrate was concentrated. The residue was then transferred to a separatory funnel containing water (20 mL) and the aqueous layer was extracted with ethyl acetate (2×20 mL). The combined organic layers were washed with brine (10 mL), dried over MgSO4, filtered and concentrated. The residue was purified by HPLC (acetonitrile/water with 0.1% TFA) to afford (2S)-N-((1R)-1-(4-(2-methylpentyloxy)phenyl)-2-morpholinoethyl)-2-phenylpropanamide.TFA (55 mg, 37% yield) as a yellow oil: 1H NMR (400 MHz, CDCl3) δ 7.25-7.39 (m, 5H), 6.97 (d, J=8.6 Hz, 2H), 6.76 (d, J=8.8 Hz, 2H), 6.36 (br. s., 1H), 4.83 (d, J=5.0 Hz, 1H), 3.74 (dd, J=8.8, 5.8 Hz, 1H), 3.61-3.69 (m, 2H), 3.49-3.61 (m, 4H), 2.34-2.56 (m, 4H), 2.23-2.30 (m, 2H), 1.83-1.95 (m, 1H), 1.52 (d, J=7.3 Hz, 3H), 1.26-1.50 (m, 3H), 1.12-1.22 (m, 1H), 0.97 (d, J=6.8 Hz, 3H), 0.90 (t, J=7.3 Hz, 3H); LRMS (ESI) m/e 439.3 [(M+H)+, calcd for C27H39N2O3 439.3].

reactant | (2S)-N-((1R)-2-amino-1-(4-(2-methylpentyloxy)phenyl)ethyl)-2-phenylpropanamide | 0.271 mmol, 100 mg | NC[C@@H](C1=CC=C(C=C1)OCC(CCC)C)NC([C@@H](C)C1=CC=CC=C1)=O | C23H32N2O2
reactant | potassium carbonate | 0.543 mmol, 75 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromoethyl ether | 0.271 mmol, 0.038 mL | BrCCOCCBr | C4H8Br2O
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
product | (2S)-N-((1R)-1-(4-(2-methylpentyloxy)phenyl)-2-morpholinoethyl)-2-phenylpropanamide | CC(COC1=CC=C(C=C1)[C@H](CN1CCOCC1)NC([C@@H](C)C1=CC=CC=C1)=O)CCC | C27H38N2O3
